US09447046B2
Preparation 180b: 4-(azetidin-1-yl)aniline
10% Pd/C (70 mg) was added to a solution of 1-(4-nitrophenyl)azetidine (0.7 g, 3.9 mmol) in EtOH (15 mL) at r.t. under N2. After stirring under 50 psi H2 overnight, the reaction mixture was filtered through Celite and concentrated to give 580 mg (99%) of the title compound as a brown oil. [M+H] Calc'd for C9H12N2, 149. Found, 149.

reactant | 1-(4-nitrophenyl)azetidine | 3.9 mmol, 0.7 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC1 | C9H10N2O2
solvent | EtOH | 15 mL | CCO | C2H6O
catalyst | Pd/C | 70 mg | [Pd] | Pd
product | 4-(azetidin-1-yl)aniline | 580 mg, 99% | N1(CCC1)C1=CC=C(N)C=C1 | C9H12N2
